US07642270B2
(4-Piperidin-4-yl-phenyl)-carbamic acid tert-butyl ester (0.20 g, 0.72 mmol), (4-methyl-piperazin-1-yl)-acetic acid (0.11 g, 0.72 mmol), HOBt (0.10 g, 0.72 mmol), DCI (0.14 g, 0.72 mmol), and DIEA (0.10 g, 0.72 mmol) were all combined in DMF (5 mL). After 16 h, water (10 mL) and CH2Cl2 (10 mL) were added. The organic layer was washed with water (3×10 mL), dried (MgSO4) and concentrated. Chromatography (0-15% EtOAc/hexanes gradient) provided 0.24 g (83%) of (4-{1-[2-(4-methyl-piperazin-1-yl)-acetyl]-piperidin-4-yl}-phenyl)-carbamic acid tert-butyl ester. (4-{1-[2-(4-Methyl-piperazin-1-yl)-acetyl]-piperidin-4-yl}-phenyl)-carbamic acid tert-butyl ester (0.72 mmol) was diluted in CH2Cl2 (3 mL) and TFA (3 mL) was added. After 1 h, the reaction mixture was concentrated. Water (2 mL) was added and the solution was frozen and lyophilized overnight to provide (0.16 g) (72%) of 1-[4-(4-Amino-phenyl)-piperidin-1-yl]-2-(4-methyl-piperazin-1-yl)-ethanone. 8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (32.5 mg, 0.079 mmol) and 1-[4-(4-Amino-phenyl)-piperidin-1-yl]-2-(4-methyl-piperazin-1-yl)-ethanone tri-TFA salt (52 mg g, 0.079 mmol) were combined in i-PrOH (1 mL) and TEA (25 mg, 0.25 mmol) was added and the mixture was heated to 90° C. After 3 h, the reaction mixture was concentrated and purified by preparative HPLC (30 mL/min 5-100% MeCN/H2O gradient over 10 min) and lyophilized to provide 8.6 mg of 8-indan-5-yl-2-(4-{1-[2-(4-methyl-piperazin-1-yl)-acetyl]-piperidin-4-yl}-phenylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.23 (s, 1H), 8.39 (s, 1H), 7.40-7.42 (m, 2H), 7.17-7.26 (m, 3H), 7.06-7.09 (m, 2H), 4.30 (q, 2H, J=7.1 Hz), 3.07 (br s, 1H), 2.87-2.93 (m, 6H), 2.48-2.67 (m, 7H), 2.28 (br s, 3H), 2.05-2.12 (m, 2H), 1.72-1.82 (m, 2H), 1.49 (br s, 2H), 1.31 (t, 3H, J=7.1 Hz).

reactant | (4-{1-[2-(4-Methyl-piperazin-1-yl)-acetyl]-piperidin-4-yl}-phenyl)-carbamic acid tert-butyl ester | 0.72 mmol | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1CCN(CC1)C(CN1CCN(CC1)C)=O)=O | C23H36N4O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-Amino-phenyl)-piperidin-1-yl]-2-(4-methyl-piperazin-1-yl)-ethanone | 0.16 g, 72% | NC1=CC=C(C=C1)C1CCN(CC1)C(CN1CCN(CC1)C)=O | C18H28N4O
